US06281227B1
E. 1-Benzenesulfonyl-2bromomethyl-5-chloro-1H-pyrrolo [3,2-b]pyridine
To a solution of (1-benzenesulfonyl-5-chloro-1H-pyrrolo[3,2-b]pyridin-2-yl)-methanol (0.16 g, 0.50 mmol) in 4 mL Et2O/CH2Cl2 (1:1) at 0° C. is added phosphorous tribromide (0.023 mL, 0.25 mmol) dropwise. The reaction vessel is kept in the dark and stirred at 0° C. for 1 hour, then at room temperature for 2 hours. The mixture is diluted with water and EtOAc and the layers are separated. The aqueous layer is extracted with EtOAc. The combined organic layers are washed with water, saturated NaHCO3 solution and saturated NaCl solution, then dried over MgSO4, filtered and concentrated. The crude product (0.16 g, 0.41 mmol) is used in the subsequent step without further purification.

reactant | (1-benzenesulfonyl-5-chloro-1H-pyrrolo[3,2-b]pyridin-2-yl)-methanol | 0.50 mmol, 0.16 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=NC(=CC=C21)Cl)CO | C14H11ClN2O3S
reactant | phosphorous tribromide | 0.25 mmol, 0.023 mL | P(Br)(Br)Br | Br3P
solvent | Et2O CH2Cl2 | 4 mL | CCOCC.C(Cl)Cl
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Benzenesulfonyl-2bromomethyl-5-chloro-1H-pyrrolo [3,2-b]pyridine | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=NC(=CC=C21)Cl)CBr | C14H10BrClN2O2S
